US06310211B1
Amino-1,3-benzodioxol-5-ylacetonitrile (W-99) (Refer to Chart W.)
Piperonal (6.00 g) is dissolved in THF (25 mL) and aq. NH3 (58%, 4.2 mL), NH4Cl (3.3 g) and KCN (3.9 g) are added. The mixture is stirred efficiently for 24 h. MgSO4 is added and the mixture stirred for 30 min., filtered and washed with THF The filtrate is evaporated under reduced pressure and the residue purified by FC (Et2O/petrol ether 1:2,→2:1,→Et2O). Aminonitrile W-99 is obtained as a brown, unstable oil (2.87 g). The hydrochloride salt is precipitated from sat. HCl/Et2O for analytical purposes.

reactant | Piperonal | 6.00 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | NH3 | 4.2 mL | N | H3N
reactant | NH4Cl | 3.3 g | [NH4+].[Cl-]
reactant | KCN | 3.9 g | [C-]#N.[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Amino-1,3-benzodioxol-5-ylacetonitrile | 2.87 g | NC(C#N)C1=CC2=C(OCO2)C=C1 | C9H8N2O2
